US06593335B1
5-Bromo-4-fluoro-2-nitrobenzaldehyde.
To a solution of 3-bromo-4-fluorobenzaldehyde (5.00 g, 24.6 mmol) in sulfuric acid (25 mL) at 0 ° C. was added dropwise fuming nitric acid (3 mL) in sulfuric acid (30 mL), stirred at room temperature overnight, poured onto ice, the precipitate collected, washed with water, and dried. The crude product was purified by flash chromatography over silica gel eluting with ethylacetate/hexane (3:7) to provide 3.9 g of the title compound as yellow crystals.

reactant | 3-bromo-4-fluorobenzaldehyde | 24.6 mmol, 5.00 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | nitric acid | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-4-fluoro-2-nitrobenzaldehyde | 3.9 g | BrC=1C(=CC(=C(C=O)C1)[N+](=O)[O-])F | C7H3BrFNO3
